US09447084B2
1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one
Into a 50-mL round-bottom flask, was placed a solution of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]imidazolidin-4-one (80 mg, 0.14 mmol, 1.00 equiv) in N,N-dimethylformamide (5 ml), sodium hydride (11 mg, 0.28 mmol, 2.00 equiv, 60%), 1,1,1-trifluoro-3-iodopropane (153 mg, 0.68 mmol, 5.00 equiv). The resulting solution was stirred overnight at r t. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 2×10 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×10 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1). This resulted in 17.8 mg (19%) of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one as a light yellow solid. (ES, m/z): [M+CH3CN]+ 711.0; 1H NMR (300 MHz, CD3OD): δ8.12-8.22 (m, 2H), 7.99 (s, 1H), 7.89 (d, J=5.4 Hz, 2H), 7.71 (d, J=5.1 Hz, 1H), 5.12 (s, 1H), 4.70 (s, 1H), 4.16-4.47 (m, 3H), 3.86 (s, 1H), 3.57-3.74 (m, 2H), 2.39-2.67 (m, 2H).

reactant | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]imidazolidin-4-one | 0.14 mmol, 80 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CNC(C1)=O)C(F)(F)F)C(F)(F)F | C22H13ClF9N3O3
reactant | sodium hydride | 0.28 mmol, 11 mg, 2.00 equiv | [H-].[Na+]
reactant | 1,1,1-trifluoro-3-iodopropane | 0.68 mmol, 153 mg, 5.00 equiv | FC(CCI)(F)F | C3H4F3I
reactant | CH3CN | CC#N | C2H3N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CN(C(C1)=O)CCC(F)(F)F)C(F)(F)F)C(F)(F)F | C25H16ClF12N3O3
